US07691882B2
3-(3-(5-p-Tolyloxy-thiophen-2-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (7.00 mL) solution of (5-p-tolyloxy-thiophen-2-yl)-acetohydroximoyl chloride (191 mg, 0.678 mmol) described in Manufacturing Example 48-1-5 and 3-ethynyl-pyridin-2-ylamine (40.0 mg, 0.339 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (189 μL, 1.36 mmol) at room temperature, which was stirred for 4 hours at room temperature. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:3) to obtain the title compound (2.03 mg, 1.65%).

reactant | tetrahydrofuran | 7.00 mL | O1CCCC1 | C4H8O
reactant | (5-p-tolyloxy-thiophen-2-yl)-acetohydroximoyl chloride | 0.678 mmol, 191 mg | C1(=CC=C(C=C1)OC1=CC=C(S1)CC(=NO)Cl)C | C13H12ClNO2S
reactant | 3-ethynyl-pyridin-2-ylamine | 0.339 mmol, 40.0 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 1.36 mmol, 189 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(5-p-Tolyloxy-thiophen-2-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine | 2.03 mg, 1.65% | C1(=CC=C(C=C1)OC1=CC=C(S1)CC1=NOC(=C1)C=1C(=NC=CC1)N)C | C20H17N3O2S
